US07847074B2
4-bromo-1-chloro-2-phenoxymethyl-benzene
To a mixture of 7.1 g phenol and 11.1 g potassium carbonate in 100 mL ethanol are added 19.5 g 4-bromo-2-bromomethyl-1-chloro-benzene. The mixture is stirred at ambient temperature over night. The ethanol is evaporated, and water is added to the residue. The resulting mixture is extracted with ethyl acetate, the combined extracts are dried over sodium sulfate, and the solvent is removed. The residue is purified by chromatography on silica gel (cyclohexane/ethyl acetate 70:30).

reactant | phenol | 7.1 g | C1(=CC=CC=C1)O | C6H6O
reactant | potassium carbonate | 11.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-bromo-2-bromomethyl-1-chloro-benzene | 19.5 g | BrC1=CC(=C(C=C1)Cl)CBr | C7H5Br2Cl
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 4-bromo-1-chloro-2-phenoxymethyl-benzene | BrC1=CC(=C(C=C1)Cl)COC1=CC=CC=C1 | C13H10BrClO
